US08377970B2
ethyl 4-methylthiazole-5-carboxylate
4-methylthiazole-5-carboxylic acid was dissolved in DCM, cooled to 0° C., added oxalyl chloride (7.6 ml, 88 mmol) and DMF (2 drops). Reaction mixture was stirred for 30 mins and DCM was removed on rotavapour. Residue was dissolved in MeOH at 0° C. and stirred for 30 mins at rt. MeOH was removed on rotavapour and crude was worked up (AcOEt/H2O) to obtain the title compound (4.1 g) as a white solid. 1H-NMR (δ ppm, CDCl3, 400 MHz): 8.83 (s, 1H), 4.35 (q, J 7.2, 2H), 2.78 (s, 3H), 1.37 (t, J 7.2, 3H).

reactant | 4-methylthiazole-5-carboxylic acid | CC=1N=CSC1C(=O)O | C5H5NO2S
reactant | oxalyl chloride | 88 mmol, 7.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | ethyl 4-methylthiazole-5-carboxylate | 4.1 g | CC=1N=CSC1C(=O)OCC | C7H9NO2S
